US07709500B2
N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-7-[(methylamino)sulfonyl]-1-oxo-1,2-dihydroisoquinoline-4-carboxamide
7-[(Methylamino)sulfonyl]-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid (0.1 g) in dimethyl formamide (7 ml) was treated with N,N-carbonyldiimidazole (0.06 g) and the mixture was heated at 55° C. for 45 min. (2R)-1-Amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.11 g) in dimethyl formamide (1 ml) was added and the mixture was stirred at ambient temperature for 18 h. 1 Drop of water was added and the solvent was evaporated. Purification using revere phase HPLC (Symmetry C8 column) and acetonitrile/aqueous ammonium acetate as eluent yielded the title compound as a white solid (0.03 g).

reactant | 7-[(Methylamino)sulfonyl]-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid | 0.1 g | CNS(=O)(=O)C1=CC=C2C(=CNC(C2=C1)=O)C(=O)O | C11H10N2O5S
reactant | N,N-carbonyldiimidazole | 0.06 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (2R)-1-Amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.11 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | water | O | H2O
solvent | dimethyl formamide | 7 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
product | N-{(2R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-7-[(methylamino)sulfonyl]-1-oxo-1,2-dihydroisoquinoline-4-carboxamide | 0.03 g | ClC=1C=C(OC2CCN(CC2)C[C@@H](CNC(=O)C2=CNC(C3=CC(=CC=C23)S(=O)(=O)NC)=O)O)C=CC1Cl | C25H28Cl2N4O6S
